US05324449
0.7 g of lithium and 5.7 g of ZnBr2 are added at 0° to a mixture of 15.4 g of trans-4-pentylcyclohexylethyliodide and 100 ml of THF/toluene (1:4), and the reaction mixture is treated with ultrasound at 0°-10° for 4 hours. 14.8 g of 4-trifluoromethoxybromobenzene and 0.88 g of PdCl2 (dppf) are subsequently added at 5°. The mixture is allowed to warm to room temperature and is stirred for a further 16 hours. The mixture is then poured into 100 ml of saturated NH4Cl solution, and the organic phase is work ed up. After purification by chromatography and/or crystallization, 1-(4-trifluoromethoxyphenyl)-2-(trans-4-pentylcyclohexyl)-ethane is obtained.

reactant | lithium | 0.7 g | [Li] | Li
reactant | trans-4-pentylcyclohexylethyliodide | 15.4 g | C(CCCC)[C@@H]1CC[C@H](CC1)CCI | C13H25I
reactant | 4-trifluoromethoxybromobenzene | 14.8 g | FC(OC1=CC=C(C=C1)Br)(F)F | C7H4BrF3O
reactant | NH4Cl | 100 ml | [NH4+].[Cl-]
catalyst | ZnBr2 | 5.7 g | [Zn+2].[Br-].[Br-]
catalyst | PdCl2 | 0.88 g | Cl[Pd]Cl
solvent | THF toluene | 100 ml | C1CCOC1.C1(=CC=CC=C1)C
product | 1-(4-trifluoromethoxyphenyl)-2-(trans-4-pentylcyclohexyl)-ethane | FC(OC1=CC=C(C=C1)CC[C@@H]1CC[C@H](CC1)CCCCC)(F)F | C20H29F3O
